US06380387B1
To a suspension of 3-methyl-6-(trifluoromethyl)uracil (20.6 mmol, 4.0 g) and powdered potassium carbonate (41.2 mmol, 5.7 g) in DME (30 mL) was added methyl iodide (82.4 mmol, 5.13 mL). Then, the reaction mixture was refluxed for 4 h at which time the TLC analysis of the reaction mixture indicated the absence of starting material. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). Then, the DME was removed under reduced pressure to afford a white suspension. The solids were collected by filtration and washed with water. After air drying, 3.55 g (83% yield) of 1,3-dimethyl-6-(trifluoromethyl)uracil was obtained as a white solid: mp 85-87° C. EI-HRMS m/e calcd for C7H7F3N2O2 (M+) 208.0459, found 208.0460.

reactant | 3-methyl-6-(trifluoromethyl)uracil | 20.6 mmol, 4.0 g | CN1C(NC(=CC1=O)C(F)(F)F)=O | C6H5F3N2O2
reactant | potassium carbonate | 41.2 mmol, 5.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 82.4 mmol, 5.13 mL | CI | CH3I
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | water | 50 mL | O | H2O
product | 1,3-dimethyl-6-(trifluoromethyl)uracil | 3.55 g, 83% yield | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C | C7H7F3N2O2
